US07943619B2
N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-benzamide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using benzoyl chloride instead of methoxyacetyl chloride, to the title compound (250 mg, 65%) which was obtained as a white solid. MS: m/e=387.4 [M+H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-benzamide | 250 mg, 65% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(C1=CC=CC=C1)=O | C22H18N4O3
